US03933824
To a cooled solution of 3.4 g of γ-(4-phenylpiperazino)-2-amino-4-fluorobutyrophenone in 100 ml of lN hydrochloric acid was added dropwise 0.7 g of sodium nitrite dissolved in 10 ml of water under stirring at a temperature below 0°C. The resulting diazonium salt solution was added to a cooled solution of 20 ml of 50 % hypophosphorous acid with vigorous stirring. The stirring was continued for 90 minutes below 0°C and the reaction mixture was stored in a refrigerator overnight. The cold reaction mixture was made alkaline with 10 % sodium hydroxide and extracted with ether. The etheral layer was washed with water, dried over anhydrous sodium sulfate and concentrated to an oily residue, which was crystallized on standing. Recrystallization from isopropanol gave γ-(4-phenylpiperazino)-4-fluorobutyrophenone, melting point 104.0°-106.0°C.

reactant | γ-(4-phenylpiperazino)-2-amino-4-fluorobutyrophenone | 3.4 g | C1(=CC=CC=C1)N1CCN(CC1)C(CC(C(=O)C1=CC=CC=C1)N)F | C20H24FN3O
reactant | sodium nitrite | 0.7 g | N(=O)[O-].[Na+]
reactant | hypophosphorous acid | 20 ml | [PH2](=O)O | H3O2P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 100 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | γ-(4-phenylpiperazino)-4-fluorobutyrophenone | C1(=CC=CC=C1)N1CCN(CC1)C(CCC(=O)C1=CC=CC=C1)F | C20H23FN2O
